US04910077
Example 1 was repeated except that the copper foil was pretreated with a silane solution prepared as follows. 6.66 grams of N-2-aminoethyl-3-aminopropyltrimethoxysilane (a product of Petrarch Systems Inc.) in 886 g of methanol were charged in a reaction vessel with 2.29 grams of allyl chloride to produce 3-(N-allyl-2-aminoethylamino)-propyltrimethoxysilane hydrochloride. A 1% solution of this silane in methanol was prepared as described in Example 12 and the copper foil dipped for 30 minutes. The copper foil and lamination were performed as described in Example 12 at a psi of 1100. The prepregs (2-ply) had a 62.45% polymer uptake and were formed into 6"×6" 2-ply laminates.

reactant | silane | [SiH4] | H4Si
reactant | N-2-aminoethyl-3-aminopropyltrimethoxysilane | 6.66 grams | NCCNCCC[Si](OC)(OC)OC | C8H22N2O3Si
reactant | allyl chloride | 2.29 grams | C(C=C)Cl | C3H5Cl
solvent | methanol | 886 g | CO | CH4O
catalyst | copper | [Cu] | Cu
product | 3-(N-allyl-2-aminoethylamino)-propyltrimethoxysilane hydrochloride | Cl.C(C=C)N(CCC[Si](OC)(OC)OC)CCN | InChI=1S/C11H26N2O3Si.ClH/c1-5-8-13(10-7-12)9-6-11-17(14-2,15-3)16-4;/h5H,1,6-12H2,2-4H3;1H
